US04570005
Preparation of 3-(4-fluorophenoxy)benzyl 2-(3,4-dichlorophenyl)-2-methylpropyl ether is described
To 20 ml of toluene was added 0.63 g of sodium hydride (60% in oil) and the mixture was refluxed, and a solution of 2.3 g of 2-(3,4-dichlorophenyl)-2-methylpropyl alcohol in 10 ml of 25% DMF/toluene was added dropwise to the mixture over a period of 15 minutes. The mixture was stirred for 15 minutes, and a solution of 3.5 g of 3-(4-fluorophenoxy)benzyl bromide in 10 ml of toluene was added dropwise to the mixture over a period of 20 minutes. Then, the mixture was refluxed for 1 hour and cooled to room temperature, and poured into water.

reactant | sodium hydride | 0.63 g | [H-].[Na+]
reactant | 2-(3,4-dichlorophenyl)-2-methylpropyl alcohol | 2.3 g | ClC=1C=C(C=CC1Cl)C(CO)(C)C | C10H12Cl2O
reactant | 3-(4-fluorophenoxy)benzyl bromide | 3.5 g | FC1=CC=C(OC=2C=C(CBr)C=CC2)C=C1 | C13H10BrFO
reactant | water | O | H2O
solvent | DMF toluene | 10 ml | CN(C)C=O.C1(=CC=CC=C1)C
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-fluorophenoxy)benzyl 2-(3,4-dichlorophenyl)-2-methylpropyl ether | ClC=1C=C(C=CC1Cl)C(COCC1=CC(=CC=C1)OC1=CC=C(C=C1)F)(C)C | C23H21Cl2FO2
